US07141598B2
Production of 6-bromo-N-cyclobutyl-2-naphthamide
By reactions similar to those in Reference Example 2, using 6-bromo-2-naphthoic acid (1.01 g), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.92 g), 1-hydroxy-1H-benzotriazole monohydrate (0.735 g; HOBt), dimethylformamide (16 ml), N-ethyldiisopropylamine (0.62 g) and cyclobutylamine (0.45 g), the title compound (0.89 g) was obtained as colorless needle crystals.

reactant | 6-bromo-2-naphthoic acid | 1.01 g | BrC=1C=C2C=CC(=CC2=CC1)C(=O)O | C11H7BrO2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.92 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxy-1H-benzotriazole monohydrate | 0.735 g | O.ON1N=NC2=C1C=CC=C2
reactant | N-ethyldiisopropylamine | 0.62 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | cyclobutylamine | 0.45 g | C1(CCC1)N | C4H9N
solvent | dimethylformamide | 16 ml | CN(C=O)C | C3H7NO
product | 6-bromo-N-cyclobutyl-2-naphthamide | 0.89 g | BrC=1C=C2C=CC(=CC2=CC1)C(=O)NC1CCC1 | C15H14BrNO
